US07943619B2
(1,1-Dioxo-1λ6-thiomorpholin-4-yl)-[4-methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-methanone
As described for example 44, 4-methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (200 mg, 0.61 mmol) was converted, using thiomorpholine 1,1-dioxide instead of 4-amino-tetrahydropyran, to the title compound (SiO2, heptane:ethyl acetate=100:0 to 60:40, 195 mg, 72%) which was obtained as a colourless crystalline solid. MS: m/e=443.2 [M+H]−.

reactant | 4-methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid | 0.61 mmol, 200 mg | CC1=C(N=NC(=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)C(=O)O | C17H15N3O4
reactant | thiomorpholine 1,1-dioxide | N1CCS(CC1)(=O)=O | C4H9NO2S
product | (1,1-Dioxo-1λ6-thiomorpholin-4-yl)-[4-methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-methanone | 195 mg, 72% | O=S1(CCN(CC1)C(=O)C=1N=NC(=CC1C)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C21H22N4O5S
